US04602037
EXAMPLE 4: Cyclohexyl methyl xanthate
3 g (0.015 mol) of sodium cyclohexyl xanthate is dissolved in 50 ml of dried methanol and heated to reflux with 10.7 g (0.075 mol) of methyl iodide for 1 hour. After cooling, the reaction solution is evaporated by using a rotary evaporator, dissolved in ether/water (50/50), the ether phase being separated and dried with sodium sulfate, purified with active carbon/bleaching earth, and evaporated with the aid of a rotary evaporator.

reactant | sodium cyclohexyl xanthate | 0.015 mol, 3 g | O(C(=S)[S-])C1CCCCC1.[Na+]
reactant | methyl iodide | 0.075 mol, 10.7 g | CI | CH3I
solvent | methanol | 50 ml | CO | CH4O
product | Cyclohexyl methyl xanthate | O(C(=S)SC)C1CCCCC1 | C8H14OS2
